US05614548
(±)-3-hexadecylthio-2-ethoxy-N,N-dimethyl-N-gamma-hydroxypropyl-1-propyl ammonium bromide
This product was prepared in an analogous manner to that of (±)-3-hexadecylthio-2-methoxy-N,N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide from 2.2 grams (0.005 mole) of (±)-1-hexadecylthio-2-ethoxy-3-bromopropane and 0.6 milliliter (0.006 mole) of N,N-dimethylaminopropanol to give 0.575 milligram (22%) of product, (mp 96°-98° Centigrade). 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 31H, (CH2)14, CH3 --CH2 --O], 2.2(m, 2H, N--CH2 --CH2 --CH2), 2.58(m, 2H, S--CH2), 2.7-2.9(m, 2H, CH2 --S), 3.48[s, 6H, N(CH3)2 ], 3.9-4.3(m, 9H, CH3CH2OCH, CH2 --N--CH2 --CH2 --CH2 --OH). Anal. (C26H56NO2SBr) C,H,N.

reactant | (±)-3-hexadecylthio-2-methoxy-N,N-dimethyl-N-β-hydroxyethyl-1-propyl ammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](CCO)(C)C)OC
reactant | (±)-1-hexadecylthio-2-ethoxy-3-bromopropane | 0.005 mole, 2.2 grams | C(CCCCCCCCCCCCCCC)SCC(CBr)OCC | C21H43BrOS
reactant | N,N-dimethylaminopropanol | 0.006 mole, 0.6 milliliter | CN(C)C(CC)O | C5H13NO
product | (±)-3-hexadecylthio-2-ethoxy-N,N-dimethyl-N-gamma-hydroxypropyl-1-propyl ammonium bromide | 0.575 milligram, 22% | [Br-].C(CCCCCCCCCCCCCCC)SCC(C[N+](CCCO)(C)C)OCC | InChI=1S/C26H56NO2S.BrH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-23-30-25-26(29-6-2)24-27(3,4)21-20-22-28;/h26,28H,5-25H2,1-4H3;1H/q+1;/p-1
